US06951888B2
(d) methyl (2,4,6-trimethylphenyl)acetate
173 g (2,4,6-trimethylphenyl)acetic acid is refluxed in 131 mL of concentrated hydrochloric acid and 1.1 L of methanol for 3 hours with stirring. The solvent is distilled off under reduced pressure and the aqueous phase extracted twice with diethyl ether. The combined organic phases are extracted twice with a saturated aqueous sodium hydrogen carbonate solution and dried with sodium sulfate and the solvent is distilled off under reduced pressure. The residue is fractionally distilled. Yield: 116 g (57%); bp15: 140° C.

reactant | (2,4,6-trimethylphenyl)acetic acid | 173 g | CC1=C(C(=CC(=C1)C)C)CC(=O)O | C11H14O2
reactant | methanol | 1.1 L | CO | CH4O
solvent | hydrochloric acid | 131 mL | Cl | ClH
product | methyl (2,4,6-trimethylphenyl)acetate | CC1=C(C(=CC(=C1)C)C)CC(=O)OC | C12H16O2
